US05866592
N-(N-4-Amidinobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid benzyl ester (0.10 g) was stirred under a hydrogen atmosphere in a 50% water/methanol mixed solution under the presence of palladium hydroxide catalyst at a room temperature for 6 hours. The catalyst was removed by filtration and the solvents were distilled off. The residue was dissolved in a 1N aqueous solution of acetic acid and the resulting solution was purified with a high performance liquid chromatography (HPLC) [column: ODS 5C18 (μ bondasphere, φ 19×150 mm), mobile phase: (A) 0.1% TFA, (B) 100% CH3CN/0.1% TFA, gradient: (A):(B)=80:20-70:30, 20 minutes, flow rate: 17 ml/min]. The desired fractions were collected and lyophilized to yield N-(N-4-amidinobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid (15 ml).

reactant | N-(N-4-Amidinobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid benzyl ester | 0.10 g | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(CNC(C1=CC=C(C=C1)C(N)=N)=O)(C)C)=O)=O | C27H34N4O4
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | water methanol | O.CO
product | N-(N-4-amidinobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid | 15 ml | C(N)(=N)C1=CC=C(C(=O)NCC(C(=O)N2CCC(CC2)CC(=O)O)(C)C)C=C1 | C20H28N4O4
